US08426449B2
Step 3: [3-(2-Hydroxymethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid ethyl ester
To [3-(2-formyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid ethyl ester (0.411 g, 1.17 mmol) in MeOH (15 mL) was added sodium borohydride (0.045 g, 1.17 mmol), and the reaction was stirred for 15 minutes at room temperature. The mixture was concentrated, and the residue was partitioned between EtOAc and H2O. The aqueous layer was separated and extracted twice with EtOAc, and the combined organic layers were dried and concentrated to give the title compound.

reactant | [3-(2-formyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid ethyl ester | 1.17 mmol, 0.411 g | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C18H15F3O4
reactant | sodium borohydride | 1.17 mmol, 0.045 g | [BH4-].[Na+]
solvent | MeOH | 15 mL | CO | CH4O
product | [3-(2-Hydroxymethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CO)=O | C18H17F3O4
